US04985427
N-(3-Chlorophenyl)glycine methyl ester
A mixture of sodium bicarbonate (66 g), 3-chloroaniline (50 g) and methyl chloroacetate (51.5 ml) were stirred under nitrogen at 80°-100° for 6 h. Heating at 90° was continued overnight, and the mixture was then cooled and poured into ether (400 ml). The resultant suspension was stirred, chilled to 0°, the precipitated solid was filtered off and the filtrate was retained. The solid was dissolved in ethyl acetate (400 ml) and washed with water (2×200 ml), followed by dilute hydrochloric acid (200 ml). The organic phase was dried and concentrated in vacuo to give the title compound (16.4 g) as a solid, m.p. 75°-76°. The previously obtained filtrate was washed with dilute hydrochloric acid (200 ml), and the organic phase was separated, dried and concentrated in vacuo to give an oily solid. This was triturated with ether:hexane (1:1; 300 ml) and filtered off to give a further batch of the title compound (20 g).

reactant | sodium bicarbonate | 66 g | C([O-])(O)=O.[Na+]
reactant | 3-chloroaniline | 50 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | methyl chloroacetate | 51.5 ml | ClCC(=O)OC | C3H5ClO2
solvent | ether | 400 ml | CCOCC | C4H10O
product | N-(3-Chlorophenyl)glycine methyl ester | 16.4 g | COC(CNC1=CC(=CC=C1)Cl)=O | C9H10ClNO2
